US09119868B2
Step 2: methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate
A solution of methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-nitrobenzoate (1.33 g, 2.29 mmol) and 10% Pd/C (cat.) in MeOH (20 mL) was stirred under a hydrogen atmosphere (15 psi) for 1.5 h. The solution was filtered through celite and evaporated to afford the title compound (1.26 g, quant.) as a light yellow solid that was used without further purification.

reactant | methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-nitrobenzoate | 2.29 mmol, 1.33 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C28H24FN3O8S
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 1.26 g | NC1=C(C(=O)OC)C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H26FN3O6S
